US04449009
Preparation of Acetyl Dimethylbutylcyclohexene
Into a 1-liter flask equipped with stirrer, thermometer, and reflux condenser is added a mixture of 150 ml anhydrous toluene and 13.4 grams of aluminum chloride. While maintaining the reaction temperature at 10° C. over a period of 10 minutes, 128 grams (0.91 moles) of 3-methyl-oct-3-ene-2-one is added to the reaction mass. Over a period of 1 hour, 250 grams (1.47 moles) of a 40% solution of piperylene in toluene is added to the reaction mass while maintaining the reaction mass at 10° C. The reaction mass is stirred at a temperature of about 10° C. for a period of 2 hours. The reaction mass is then distilled on a spinning band column yielding the following fractions:

reactant | aluminum chloride | 13.4 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-methyl-oct-3-ene-2-one | 0.91 moles, 128 grams | CC(C(C)=O)=CCCCC | C9H16O
reactant | piperylene | C=CC=CC | C5H8
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | Acetyl Dimethylbutylcyclohexene | C(C)(=O)C1(C(=C(CCC1)CCCC)C)C | C14H24O
